Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Malaise
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with active IVDU presents with fatigue, 
malaise and sweats.

Patient has concern for infection in setting of sharing needles 
with her boyfriend who was just diagnosed with Staph sepsis. 
Fatigue and sweats began about 2 days ago. No subjective or 
measured fever. Endorses chest pain on her L upper anterior 
chest wall that is intermittent and worse with breathing. 
Endorses intermittent shortness of breath in the past two days. 
Also reports a "boil" on her R buttocks, red and raised but not 
painful. Reports she has had Staph blood infections before 
(treated at ___ and felt similar malaise; 
but no history of endocarditis. No HA, cough, rashes, n/v/d/c, 
dysuria. Uses IV cocaine (last use 1 week ago) and rarely 
crystal meth, denies IV heroin or any other substances.

In the ED, initial vitals were: 97.8 100 134/67 20 100% RA 

Exam notable for:
CV no murmurs auscultated. Lungs CTAB. Ext: no ___ 
___ spots.
Skin: 1cm erythematous slightly raised lesion on R buttocks, no 
fluctuance, induration, or tenderness
MSK exam: tenderness to palpation over thoracic spine at approx. 
T7 level, tenderness to palpation over L upper chest wall

MDM: Need to rule out blood infection and endocarditis in 
setting of IVDU given her fatigue, malaise, and sweats. Could 
also have flu or other viral infectious etiology. Will check 
labs, CXR, flu swab, and blood cultures x3. Will start IV 
vancomycin for empiric endocarditis treatment. 

Labs notable for: CBC wnl Chem-7 with HCO3 17 anion gap 17, LFTs 
hemolyzed, BCx x3 drawn, UA neagtive, UCG negative, flu swab 
negative, troponin <0.01
 
Imaging notable for:
EKG: no evidence of ischemia
CXR - Very subtle slight blunting of the right costophrenic 
angle could be due to a trace pleural effusion. No 
consolidations.

Patient was given:
IV vancomycin x 3 doses, Bupropion x 2

Decision was made to admit for monitoring and blood culture 
result due to concern for possible endocarditis

On the floor, patient is anxious. She denies any shortness of 
breath, nausea, vomiting, diarrhea. She has occasional chest 
pain that she describes as sharp and last a couple of seconds. 
She denies any dysuria. She has "sweats" but has not taken her 
temperature. 

 
Past Medical History:
IVDU (cocaine and meth)
Depression
Hepatitis C partially treated 

 
Social History:
___
Family History:
No family history of cancer 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
VS: 98.6 130/84  87 18 98 RA 
Gen: well appearing anxious female in NAD
HEENT: PEERL, no ___ spots, MMM
CV: RRR, no murmurs rubs or gallops, no JVD
Pulm: CTA bilaterally without wheezes rales or rhonchi
Abd: soft, nontender, nondistended, no rebound or guarding 
Ext: no pitting edema, no evidence of splinter hemorrhages, 
___ lesions ___ nodes 
Skin: no rash
Neuro: CN ___ intact, strength ___ throughout  
Psych: anxious, A&Ox3 
DISHCARGE PHYSICAL EXAM:
==========================
VS: 97.3PO 128 / 83 89 17 98 
Gen: well appearing anxious female in NAD
HEENT: PEERL, no ___ spots, MMM
CV: RRR, no murmurs rubs or gallops, no JVD
Pulm: CTA bilaterally without wheezes rales or rhonchi
Abd: soft, nontender, nondistended, no rebound or guarding 
Ext: no pitting edema, no evidence of splinter hemorrhages, 
___ lesions ___ nodes 
Skin: no rash
Neuro: CN ___ intact, strength ___ throughout  
Psych: anxious, A&Ox3 

 
Pertinent Results:
ADMISSION LABS
====================

___ 04:37PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:48PM   NEUTS-49.3 ___ MONOS-6.0 EOS-2.0 
BASOS-0.3 IM ___ AbsNeut-4.65 AbsLymp-3.99* AbsMono-0.57 
AbsEos-0.19 AbsBaso-0.03
___ 04:48PM   WBC-9.5 RBC-4.65 HGB-13.9 HCT-41.7 MCV-90 
MCH-29.9 MCHC-33.3 RDW-13.3 RDWSD-43.8
___ 04:48PM   cTropnT-<0.01
___ 04:48PM   ALT(SGPT)-42* AST(SGOT)-28 ALK PHOS-77 TOT 
BILI-0.2
___ 04:48PM   GLUCOSE-81 UREA N-11 CREAT-0.8 SODIUM-137 
POTASSIUM-4.5 CHLORIDE-99 TOTAL CO2-22 ANION GAP-21*
___ 06:50AM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 06:50AM   GLUCOSE-103* UREA N-12 CREAT-0.7 SODIUM-137 
POTASSIUM-4.5 CHLORIDE-103 TOTAL CO2-17* ANION GAP-22*

DISCHARGE LABS - ___ REFUSED
 
Brief Hospital Course:
___ female with active IVDU presents with fatigue, malaise and 
sweats. Given vancomycin in ED and blood cultures were drawn to 
rule out endocarditis. Admitted to medicine, abx were stopped, 
patients H&P and not c/w infection. Discharged with PCP follow 
up. 

# Fatigue/malaise/sweats: patient concerned for bacteremia given 
use of shared needles with boyfriend who was diagnosed with 
staph bacteremia. No leukocytosis or fever which is reassuring. 
Has only 1 minor Duke's criteria. Influenza negative in ED. CXR 
unremarkable. UA with alpha hemolytic strep and no symptoms. 
blood cultures were negative, final results will be followed up 
and called in to patient should they come back positive. 

# IV drug use: last drug use 1 week ago with cocaine and meth. 
Patient has narcan at home. Patient was told the risks of stroke 
and CAD with use of these drugs.

# History of hepatitis C: partially treated. LFTs normal on 
admission. Refused repeat serologies. 

CHRONIC ISSUES:
==========================
# Depression:
- continued home bupriopion

TRANSITIONAL ISSUES
--------------------
[] Please obtain HIV and hep c viral load as she was partially 
treated for HCV prior to relapse
[] patient has home narcan
[] Consider evaluation for CHF or ischemia if chest pain as 
patient is using IV cocaine and methamphetamine.
[] Please check HIV serologies

<30 minutes spent on discharge planning. Counseled for 
tobacco/drug cessation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 200 mg PO BID 
2. Doxepin HCl 10 mg PO HS 
3. Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 

 
Discharge Medications:
1.  Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
 
2.  BuPROPion (Sustained Release) 200 mg PO BID  
3.  Doxepin HCl 10 mg PO HS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
------------------
Malaise

Secondary Diagnosis
-----------------
IVDU

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to the hospital with fatigue and not feeling 
well. You were concerned that you may have an infection in your 
bloodstream after sharing IV needles. You were given antibiotics 
in the emergency department. You had no evidence of infection in 
your labs and you did not have any fever. Your blood cultures 
were normal and you were feeling well so you were discharged 
home. We will call your cell phone if your blood cultures end up 
returning positive.

We recommended testing for hepatitis and HIV, but you declined. 
Please set up an appointment with your PCP to get these tests.

It was a pleasure taking care of you,
Your ___ Care Team.
 
Followup Instructions:
___